US04146630
3.8 g. 4-[2-Hydroxy-3-(4-phenoxymethylpiperidino)-propoxy]-benzimidazole and 1.3 g. pivaloyl chloride are boiled under reflux for 2 hours in 25 ml. pyridine. After stripping off the solvent, the residue is taken up in 100 ml. chloroform. The chloroform solution is thoroughly washed with water, dried over anhydrous sodium sulphate and finally mixed with 50 ml. ethereal hydrochloric acid. After evaporation and recrystallization from ethanol, there is obtained 4-[2-pivaloyloxy-3-(4-phenoxymethylpiperidino)-propoxy]-benzimidazole hydrochloride; m.p. 132°-134° C.

reactant | 4-[2-Hydroxy-3-(4-phenoxymethylpiperidino)-propoxy]-benzimidazole | OC(COC1=CC=CC=2N=CNC21)CN2CCC(CC2)COC2=CC=CC=C2 | C22H27N3O3
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-[2-pivaloyloxy-3-(4-phenoxymethylpiperidino)-propoxy]-benzimidazole hydrochloride | Cl.C(C(C)(C)C)(=O)OC(COC1=CC=CC=2N=CNC21)CN2CCC(CC2)COC2=CC=CC=C2 | InChI=1S/C27H35N3O4.ClH/c1-27(2,3)26(31)34-22(18-33-24-11-7-10-23-25(24)29-19-28-23)16-30-14-12-20(13-15-30)17-32-21-8-5-4-6-9-21;/h4-11,19-20,22H,12-18H2,1-3H3,(H,28,29);1H
